US05519138
2-n-Butyl-3-[4-[(α-carboxy)benzyloxy]benzyl]-5-methyl-6-dimethylaminocarbonylamino-imidazo[4,5-b]pyridine
Prepared analogously to Example 1b from 2-n-butyl-3-[4-[(α-ethoxycarbonyl)benzyloxy]benzyl]-5-methyl-6-dimethylaminocarbonylamino-imidazo[4,5-b]pyridine and 2N sodium hydroxide solution in ethanol.

reactant | 2-n-butyl-3-[4-[(α-ethoxycarbonyl)benzyloxy]benzyl]-5-methyl-6-dimethylaminocarbonylamino-imidazo[4,5-b]pyridine | C(CCC)C1=NC=2C(=NC(=C(C2)NC(=O)N(C)C)C)N1CC1=CC=C(C=C1)OC(C1=CC=CC=C1)C(=O)OCC | C31H37N5O4
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-n-Butyl-3-[4-[(α-carboxy)benzyloxy]benzyl]-5-methyl-6-dimethylaminocarbonylamino-imidazo[4,5-b]pyridine | C(CCC)C1=NC=2C(=NC(=C(C2)NC(=O)N(C)C)C)N1CC1=CC=C(C=C1)OC(C1=CC=CC=C1)C(=O)O | C29H33N5O4
